datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:22])([H:23])[H:24])=[C:16]([C:17]([H:25])([H:26])[H:27])[C:18]([H:28])([H:29])[H:30])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:19])[H:20])[H:21])([C:15]([H:22])([H:23])[H:24])[C:16]([C:17]([H:25])([H:26])[H:27])[C:18]([H:28])([H:29])[H:30])[H:5],41.84
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26](=[C:27]([C:28]([C:29]([H:34])([H:35])[H:36])[H:33])[H:32])([H:30])[H:31]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:28]([C:27](=[C:26]([H:30])[H:31])[H:32])([C:29]([H:34])([H:35])[H:36])[H:33],55.3962
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18][O:19])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:19][O:18][C:17]([H:20])([H:21])[H:22],61.96504
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0]([S:1][C:6]([H:7])([H:8])[H:9])([H:2])([H:3])[H:4].[H:5],65.6888
[C:0]([C:1]([O:2][O:3][H:11])([C:4]([O:5][H:13])([O:6][O:7][H:14])[H:12])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([C:4]([O:5][H:13])([O:6][O:7][H:14])[H:12])([H:10])[O:2]1.[O:3][H:11],41.37976
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([C:8]([H:15])([H:16])[H:17])([C:9](=[S:10])[H:18])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([S:2][H:5])[H:14])([H:3])[H:4].[C:6]([C:7]([C:8]([H:15])([H:16])[H:17])[C:9](=[S:10])[H:18])([H:11])([H:12])[H:13],-54.8104
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4](=[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])[H:15])([H:13])[H:14])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[C:4]([H:15])=[C:5]([H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17],97.6127
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[S:10]=[C:11]([C:12]([S:13][H:16])[H:15])[H:14]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([C:11](=[S:10])[H:14])([S:13][H:16])[H:15],58.576
[C:0](=[C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[C:8](=[C:9]([H:17])[H:18])[H:16])[H:11])[H:10]>>[C:0](#[C:1][c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[C:8](=[C:9]([H:17])[H:18])[H:16])[H:10].[H:11],157.117568
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9](#[C:10][C:11]([C:12]([H:15])([H:16])[H:17])[C:13]([H:18])([H:19])[H:20])[H:14]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:11]([C:10]#[C:9][H:14])([C:12]([H:15])([H:16])[H:17])[C:13]([H:18])([H:19])[H:20])[H:5],40.2919
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[H:11]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[H:7][H:11],18.2472608
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][H:22]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:13][O:21][H:22],-4.280232
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([H:12])[H:13])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([O:3][O:4][H:14])([H:12])[H:13])([H:11])[C:5]([C:6]([H:16])([H:17])[H:18])([H:15])[O:7]1.[O:8][H:19],67.082072
[C:0](#[C:1][S:2][H:4])[H:3].[H:5]>>[C:0](#[C:1][S:2])[H:3].[H:4][H:5],-11.2968
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26]([C:27]([H:30])([H:31])[H:32])([H:28])[H:29]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:26]([C:27]([H:30])([H:31])[H:32])([H:28])[H:29],27.6981
[I:0].[O:1][H:2]>>[I:0][H:2].[O:1],124.4
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([C:21]([O:22][O:23])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][O:23][O:22][C:21]([C:20]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([H:29])[H:30])([H:31])[H:32])([H:33])[H:34],85.47912
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:10]([H:11])([H:12])[H:13],41.1287
